US08030504B2
3-Bromo-N-(2-tert-butylphenyl)propanamide
2-tert-butylaniline (Aldrich, 24.7 g, 166 mmol) was dissolved in dichloromethane (100 mL) and potassium carbonate (47.0 g, 340 mmol) was added. 3-Bromopropionyl chloride (29.1 g, 170 mmol) in dichloromethane (50 mL) was added dropwise and the mixture stirred for 3 hours at ambient temperature. Water was added slowly to quench the mixture, and the organic layer was separated and washed twice with water, dried with magnesium sulfate, filtered, and concentrated under reduced pressure to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.32 (s, 9H), 2.97 (t, J=6.44 Hz, 2H), 3.74 (t, J=6.27 Hz, 2H), 7.00-7.06 (m, 1H), 7.16-7.25 (m, 2H), 7.36-7.42 (m, 1H), 9.35 (s, 1H). MS (DCI) m/z 284.0 (M+H)+.

reactant | 2-tert-butylaniline | 166 mmol, 24.7 g | C(C)(C)(C)C1=C(N)C=CC=C1 | C10H15N
reactant | potassium carbonate | 340 mmol, 47.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Bromopropionyl chloride | 170 mmol, 29.1 g | BrCCC(=O)Cl | C3H4BrClO
reactant | Water | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-Bromo-N-(2-tert-butylphenyl)propanamide | BrCCC(=O)NC1=C(C=CC=C1)C(C)(C)C | C13H18BrNO
